US08207208B2
Step B: methyl (3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl hydrogen phosphate
Bromotrimethylsilane (0.191 mL, 1.47 mmol) was added to a stirred room temperature mixture of dimethyl (3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl phosphate (400 mg, 1.34 mmol) in acetonitrile (6 mL) at 0° C., and the mixture was stirred at room temperature for 1 hour. Methanol (5 mL) was added, and the solution was concentrated. The residue was purified by preparative HPLC, eluting with 10-100% acetonitrile/water+0.1% trifluoroacetic acid, to afford the title compound as a white gum. 1H NMR (500 MHz, CD3OD) δ 5.45 (tt, J=5.3, 2.6 Hz, 1H), 5.00 (q, J=5.4 Hz, 1H), 4.74 (ddd, J=9.7, 7.2, 2.8 Hz, 1H), 4.57 (d, J=4.9 Hz, 1H), 4.09 (d, J=10.5 Hz, 1H), 3.97 (dt, J=11.3, 2.5 Hz, 1H), 3.92-3.83 (m, 2H), 3.72 (d, J=11.2 Hz, 3H); LC-MS: m/z 286.0 (M+H).

reactant | Bromotrimethylsilane | 1.47 mmol, 0.191 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | dimethyl (3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl phosphate | 1.34 mmol, 400 mg | P(=O)(OC)(OC)O[C@@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O[N+](=O)[O-] | C8H14NO9P
reactant | Methanol | 5 mL | CO | CH4O
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | methyl (3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl hydrogen phosphate | P(=O)(OC)(O[C@@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O[N+](=O)[O-])O | C7H12NO9P
